US05344843
A solution of 5-[[2-(2-naphthalenyloxy)ethyl]oxy]-alpha-oxo-2-thiopheneacetic acid 2-(dimethylamino)ethyl ester (0.4 g) and methyl iodide (0.15 g) in acetone (7 mL) was stirred overnight at room temperature. The resulting yellow crystalline solid was filtered off, washed with acetone and then crystallized from methanol to afford 0.36 g of 2-[[5-[[2-(2naphthalenyloxy)ethyl]oxy]-alpha-oxo-2-thiopheneacetyl]oxy]-N,N,N-trimethylethanaminium iodide, mp 169°-170 ° C.

reactant | 5-[[2-(2-naphthalenyloxy)ethyl]oxy]-alpha-oxo-2-thiopheneacetic acid 2-(dimethylamino)ethyl ester | 0.4 g | CN(CCOC(C(C=1SC(=CC1)OCCOC1=CC2=CC=CC=C2C=C1)=O)=O)C | C22H23NO5S
reactant | methyl iodide | 0.15 g | CI | CH3I
solvent | acetone | 7 mL | CC(=O)C | C3H6O
product | 2-[[5-[[2-(2naphthalenyloxy)ethyl]oxy]-alpha-oxo-2-thiopheneacetyl]oxy]-N,N,N-trimethylethanaminium iodide | 0.36 g | [I-].C1=C(C=CC2=CC=CC=C12)OCCOC1=CC=C(S1)C(C(=O)OCC[N+](C)(C)C)=O | InChI=1S/C23H26NO5S.HI/c1-24(2,3)12-13-29-23(26)22(25)20-10-11-21(30-20)28-15-14-27-19-9-8-17-6-4-5-7-18(17)16-19;/h4-11,16H,12-15H2,1-3H3;1H/q+1;/p-1
